US04828604
2-Amino-5-tert-butyl-1,3,4-thiadiazole (1.57 g) and 2,3-dimethylmaleic anhydride (1.51 g) were refluxed for 5 hours in glacial acetic acid (30 ml). After the reaction, acetic acid and the excess of the 2,3-dimethylmaleic anhydride were evaporated. The residue was dissolved in dichloromethane (50 ml), and the solution was washed with a 10% aqueous solution of potassium carbonate (20 ml), and dried over anhydrous magnesium sulfate. The solvent was evaporated to give the desired N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-2,3-dimethyl-maleinimide (2.41 g). mp. 87°-91° C.

reactant | 2-Amino-5-tert-butyl-1,3,4-thiadiazole | 1.57 g | NC=1SC(=NN1)C(C)(C)C | C6H11N3S
reactant | 2,3-dimethylmaleic anhydride | 1.51 g | C/C=1/C(=O)OC(\C1\C)=O | C6H6O3
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | N-(5-tert-butyl-1,3,4-thiadiazol-2-yl)-2,3-dimethyl-maleinimide | 2.41 g | C(C)(C)(C)C1=NN=C(S1)N1C(C(=C(C1=O)C)C)=O | C12H15N3O2S
